US04894386
A mixture of N-cyclopentylmethyl-3-formylindole-6-acetamide (0.52 g), t-butyl 4-bromomethyl-3-methoxybenzoate (0.66 g), and potassium carbonate (0.37 g) in N,N-dimethylformamide (10 ml) was stirred for 48 hr under a nitrogen atmosphere. Water was added to give a precipitate which was collected by filtration and purified by flash chromatography, eluting with 1:49 methanol:chloroform, to give t-butyl 4-[6-(cyclopentylmethylcarbamoyl)methyl-3-formylindol-1-ylmethyl]-3-methoxybenzoate (0.90 g, 97%) as a white solid; partial NMR (80 MHz, CDCl3): 1.56 (s, 9H, C(CH3)3), 3.09(t, 2H, NHCH2), 3.65(s, 2H, COCH2), 3.93(s, 3H, OCH3), 9.98(s, 1H, CHO).

reactant | N-cyclopentylmethyl-3-formylindole-6-acetamide | 0.52 g | C1(CCCC1)CNC(CC1=CC=C2C(=CNC2=C1)C=O)=O | C17H20N2O2
reactant | t-butyl 4-bromomethyl-3-methoxybenzoate | 0.66 g | BrCC1=C(C=C(C(=O)OC(C)(C)C)C=C1)OC | C13H17BrO3
reactant | potassium carbonate | 0.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | t-butyl 4-[6-(cyclopentylmethylcarbamoyl)methyl-3-formylindol-1-ylmethyl]-3-methoxybenzoate | 0.90 g, 97% | C1(CCCC1)CNC(=O)CC1=CC=C2C(=CN(C2=C1)CC1=C(C=C(C(=O)OC(C)(C)C)C=C1)OC)C=O | C30H36N2O5
